Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13]>>[C:8]([H:9])([H:10])[C:11]#[C:12][H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[H:7],0.00797017052901
[C:1]=[C:2]([H:3])[H:4].[C:5](=[O:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1][C:2]([H:3])([H:4])[C:5](=[O:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-0.8435616642399999
[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12].[O:1],4.15620908981
[C:2]([H:3])([H:4])=[C:5]([H:6])[C:7](=[O:8])[C:9]([H:10])([H:11])[H:12].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:7](=[O:8])[C:9]([H:10])([H:11])[H:12],-1.7935647143400002
[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11][H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])[H:13],-4.89663710813
[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])[H:4].[O:5]=[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],0.793778643231
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[O:1],5.83910837137
[H:1][C:2][C:3]([H:4])([H:5])[O:6]/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])[H:5].[O:6]=[C:7]=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-3.03159882444
[C:1]#[C:2].[O:3]=[C:4]([H:5])[H:6]>>[C:1]#[C:2][O:3][C:4]([H:5])[H:6],-2.40521311718
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7],3.85895218
[O:1][C@:2]([H:3])([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:9]([H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[H:8],0.3529448434009999
[H:1][C:2][C:3]1=[C:4]([H:5])[O:6][C:7]([H:8])[C:9]1([H:10])[H:11]>>[H:1][C:2][C:3]1=[C:4]([H:5])[O:6][C:7][C:9]1([H:10])[H:11].[H:8],4.2778022117
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7],2.9496665409500005
[H:13].[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-4.3053324758
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:11][C:12]([H:13])([H:14])[H:15],3.7178727038
[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:12].[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])([H:9])[C:10][H:11],5.40379941857
[H:1][O:2][C:3][C:8]([C:7][O:6][C:4][H:5])([H:9])[H:10]>>[H:1][O:2][C:3]1=[C:4]([H:5])[O:6][C:7][C:8]1([H:9])[H:10],-6.188577275009999
[O:11][H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12],-6.09826033511
[H:4].[O:1][C:2]([O:3])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1][C:2]([O:3][H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.74655283148
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.98032652735
[H:1][C:2]([H:3])=[C:4][C@@:9]([C:7](=[C:5][H:6])[H:8])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]1[C:5]([H:6])=[C:7]([H:8])[C@:9]1([H:10])[C:11]([H:12])([H:13])[H:14],-3.5382103228500004
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4]#[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:5][C:7][H:6],4.63124918568
[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],-1.92485095162
[O:1]=[C:2]([C:3]#[C:4][H:5])[C:8]([H:9])([H:10])[H:11].[O:6][H:7]>>[O:1][C@@:2]([C:3]#[C:4][H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-2.02553678474
[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[O:9][C:10][H:11]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][H:11],-2.1863494248900004
[C:1]#[C:2][C:3]([H:4])[C:5]#[C:6][H:7].[O:8][H:9]>>[C:1]#[C:2][C:3]([H:4])[C:5](=[C:6][H:7])[O:8][H:9],-3.07257225917
[H:10].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:11]([H:12])[H:13]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.88876710288
[C:4]([H:6])=[C:10]([H:11])[H:12].[H:1][C:2][C:3]#[C:5][C:7]([H:8])([H:9])[H:13]>>[H:1][C:2]#[C:3][C:4]([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.33578871075
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][O:4][O:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]=[C:3]([O:4][O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.78956667097
